US07390430B2
In the above reaction scheme, 1,3-bis(bromomethyl)-2,4,6-trimethylbenzene is reacted with KCN in the presence of a phase transfer catalyst, commonly known as 18-crown-6, (from Aldrich) in acetonitrile. The two-phase system is heated to reflux with vigorous stirring. After two hours, the reaction mixture is cooled, filtered, and evaporated to approximately one-third volume. Distilled water is added, and the mixture is extracted with dichloromethane. The dichloromethane solution is dried over sodium sulfate and filtered, and the solvent evaporated under reduced pressure to obtain 1,3-di(cyanomethyl)-2,4,6-trimethylbenzene.

reactant | 1,3-bis(bromomethyl)-2,4,6-trimethylbenzene | BrCC1=C(C(=C(C=C1C)C)CBr)C | C11H14Br2
reactant | KCN | [C-]#N.[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | acetonitrile | C(C)#N | C2H3N
product | 1,3-di(cyanomethyl)-2,4,6-trimethylbenzene | C(#N)CC1=C(C(=C(C=C1C)C)CC#N)C | C13H14N2
